### PR TITLE
[Merged by Bors] - feat(Algebra/BigOperators/Sym): add sum_range_count_of_mem_sym

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: AntoineChambert-Loir <antoine.chambert-loir@u-paris.fr>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Sym.lean [hunk 1]
```diff
@@ -21,3 +27,17 @@ theorem Finset.sum_sym2_filter_not_isDiag {ι α} [LinearOrder ι] [AddCommMonoi
...
+    (hk : k ∈ s.sym m) : (∑ i ∈ s, count i k) = m := by
+  simp_rw [← k.prop, ← toFinset_sum_count_eq, eq_comm]
+  apply sum_subset_zero_on_sdiff _ _ (fun _ _ ↦ rfl)
+  · intro i hi
+    simp only [Sym.val_eq_coe, mem_toFinset, Sym.mem_coe] at hi
+    exact mem_sym_iff.mp hk i hi
+  · intro _ hx
+    simp only [Sym.val_eq_coe, mem_sdiff, Finset.mem_range, mem_toFinset, Sym.mem_coe] at hx
+    simp only [count_eq_zero, Sym.mem_coe]
+    exact hx.2
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Sym.lean:41]: I prefer to see exactly which `_` are being left as goals (as it was, I had to figure it out for myself). Also, let's invoke some automation here!
```suggestion
  refine sum_subset_zero_on_sdiff ?_ ?_ (fun _ _ ↦ rfl)
  all_goals aesop
```

File: Mathlib/Algebra/BigOperators/Sym.lean [hunk 2]
```diff
@@ -21,3 +27,17 @@ theorem Finset.sum_sym2_filter_not_isDiag {ι α} [LinearOrder ι] [AddCommMonoi
     simp [and_assoc]
   · rintro ⟨⟨i₁, j₁⟩, hij₁⟩
     simp
+
+theorem sum_range_count_of_mem_sym {α} [DecidableEq α] {m : ℕ} {k : Sym α m} {s : Finset α}
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Sym.lean:31]: I don't understand why `range` appears in the name.
```suggestion
theorem sum_count_of_mem_sym {α} [DecidableEq α] {m : ℕ} {k : Sym α m} {s : Finset α}
```

File: Mathlib/Algebra/BigOperators/Sym.lean [hunk 3]
```diff
@@ -7,11 +7,17 @@ import Mathlib.Algebra.BigOperators.Group.Finset.Basic
 import Mathlib.Data.Finset.Sym
 import Mathlib.Data.Sym.Sym2.Order
 
+
+
```
Comment (j-loreaux) [inline Mathlib/Algebra/BigOperators/Sym.lean:11]:
```suggestion
```

**Review by j-loreaux — COMMENTED** [review]
The `all_goals aesop` also works in the other declaration in this file. Please update it.

bors d+

File: Mathlib/Algebra/BigOperators/Sym.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/Algebra/BigOperators/Sym.lean:41]: I had to change the `refine` slightly; otherwise `aesop` did not close the first goal:
```
refine sum_subset_zero_on_sdiff (fun _ _ ↦ ?_) ?_ (fun _ _ ↦ rfl)
```
